US06949542B2
{5-Ethoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino}-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from (2-amino-5-ethoxy-phenyl)-carbamic acid tert-butyl ester (Example J14) (194 mg, 0.77 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (224 mg, 0.75 mmol) according to the general procedure M. Obtained as a light yellow foam (203 mg, 55%).

reactant | (2-amino-5-ethoxy-phenyl)-carbamic acid tert-butyl ester | 0.77 mmol, 194 mg | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC)N)=O | C13H20N2O3
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 224 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
product | {5-Ethoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino}-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OCC)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C27H29N3O5
